US04916149
After adding 3.66 g of N,N'-di(methoxycarbonyl)-S-methylisothiourea to a solution of 2.06 g of 2-amino-4-methoxycarbonyl-N-(4'-chloro-3'-sulfamoylbenzoyl)phenylhydrazine in 10 ml of dimethylformamide, the solution obtained was boiled for 3 hours, then evaporated under reduced pressure. The residue was dissolved in 10 ml of warm glacial acetic acid, clarified by activated carbon, filtered and the filtrate was poured into 100 ml of water. The separated crystals are filtered by suction, washed with water and dried at 80° C. to yield 3.7 g (87%) of 1-(4'-chloro-3'-sulfamoylbenzoyl)amino-5-methoxycarbonylbenzimidazolone, m.p.: 210°-216° C. (with decomposition).

reactant | N,N'-di(methoxycarbonyl)-S-methylisothiourea | 3.66 g | COC(=O)NC(SC)=NC(=O)OC | C6H10N2O4S
reactant | 2-amino-4-methoxycarbonyl-N-(4'-chloro-3'-sulfamoylbenzoyl)phenylhydrazine | 2.06 g | NC1=C(C=CC(=C1)C(=O)OC)N(N)C(C1=CC(=C(C=C1)Cl)S(N)(=O)=O)=O | C15H15ClN4O5S
reactant | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 1-(4'-chloro-3'-sulfamoylbenzoyl)amino-5-methoxycarbonylbenzimidazolone | 3.7 g, 87% | ClC1=C(C=C(C(=O)NN2C(NC3=C2C=CC(=C3)C(=O)OC)=O)C=C1)S(N)(=O)=O | C16H13ClN4O6S
